US05817664
5-Propynyluracil
A dry 250 mL round-bottomed flask was charged with 5-iodouridine (10 g, 27 mmol Aldrich), anhydrous pyridine (30 mL) and acetic anhydride (30mL). The reaction was stirred at room temperature for 30 minutes under a nitrogen atmosphere and the solvent removed in vacuo. The compound was diluted with toluene (2 ×50 mL) and the toluene removed in vacuo. The product was purified on a 75 g flash chromatography column which was eluted with 90:10 (v:v) CHC13 :MeOH. The appropriate fractions were combined and concentrated to give the title compound as a white foam. This was used directly in the next stage.

reactant | 5-iodouridine | 27 mmol, 10 g | IC=1C(NC(N([C@H]2[C@H](O)[C@H](O)[C@@H](CO)O2)C1)=O)=O | C9H11IN2O6
reactant | acetic anhydride | 30mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | 5-Propynyluracil | C(#CC)C=1C(NC(NC1)=O)=O | C7H6N2O2
